US07067517B2
Methyl-phenyl-carbamic acid benzo[d]isoxazol-3-yl ester
The title product was prepared from benzo[d]isoxazol-3-ol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (53%, colorless oil). HPLC-MS: m/z=291.1 (M+23); Rt: 4.05 min.

reactant | benzo[d]isoxazol-3-ol | O1N=C(C2=C1C=CC=C2)O | C7H5NO2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid benzo[d]isoxazol-3-yl ester | O1N=C(C2=C1C=CC=C2)OC(N(C2=CC=CC=C2)C)=O | C15H12N2O3
